US08211820B2
Preparation of 2-(biphenyl-4-yl)-[1,3]-dioxolan
Using a THF solution of phenylmagnesium bromide (1.34 mL, 1.01 M, 1.35 mmol) and 2-chlorophenyl-[1,3]-dioxolan (184.6 mg, 1.0 mmol) as starting material, the reaction was performed at a scale of 1.0 mmol at 70° C. for 48 hours in the same manner as in Example 2. After performing silica gel column chromatography (diethylether=5, 10 and 20% in hexane), the above compound was obtained as a white solid (0.199 g, yield=88%, purity=>99% (GC analysis)).

reactant | THF | C1CCOC1 | C4H8O
reactant | phenylmagnesium bromide | 1.35 mmol, 1.01 M, 1.34 mL | C1(=CC=CC=C1)[Mg]Br
reactant | 2-chlorophenyl-[1,3]-dioxolan | 1.0 mmol, 184.6 mg | ClC1=C(C=CC=C1)C1OCCO1 | C9H9ClO2
reactant | diethylether | C(C)OCC | C4H10O
solvent | hexane | CCCCCC | C6H14
product | 2-(biphenyl-4-yl)-[1,3]-dioxolan | yield=88% | C1(=CC=C(C=C1)C1OCCO1)C1=CC=CC=C1 | C15H14O2
